US06809094B2
4-BENZOTHIAZOL-2-YL-1,4-DIAZA-BICYCLO[3.2.2]NONANE
2-Chlorobenzothiazole (Aldrich, 109 μL, 0.841 mmol) was added to a solution of 1,4-diazabicyclo[3.2.2]nonane (57%, 169 mg, 0.765 mmol), Et3N (213 μL, 1.53 mmol) in DMF (2.5 mL). The reaction mixture was heated at 100° C. for 2 h. The mixture was allowed to cool to RT, diluted with EtOAc and H2O and the layers were partitioned. The aqueous layer was extracted with EtOAc (3×) and the combined organic extracts were washed successively with H2O and brine and then dried (Na2SO4), filtered and concentrated. The crude residue was purified by chromatography (Biotage, 12 L) eluting with 5% MeOH in CHCl3 to afford 68 mg (34%) of the title compound as a yellow oil: 1H NMR (CDCl3, 400 MHz) δ 7.58 (d, 1H, J=7.9 Hz), 7.57 (d, 1H, J=7.9 Hz), 7.27 (t, 1H, J=8.3 Hz), 7.04 (td, 1H, J=7.9, 1.2 Hz), 4.31 (s, 1H), 3.92 (t, 2H, J=5.8 Hz), 3.19-2.98 (m, 6H), 2.25-2.16 (m, 2H), 1.84-1.77 (m, 2H); MS (Cl) m/z 260.2 (M+1). The hydrochloride salt was prepared by dissolving the title compound in iPrOH and adding 0.1 mL of 6 M hydrochloric acid.

reactant | 2-Chlorobenzothiazole | 0.841 mmol, 109 μL | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
reactant | 1,4-diazabicyclo[3.2.2]nonane | 0.765 mmol, 169 mg | N12CCNC(CC1)CC2 | C7H14N2
reactant | Et3N | 1.53 mmol, 213 μL | CCN(CC)CC | C6H15N
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | 4-BENZOTHIAZOL-2-YL-1,4-DIAZA-BICYCLO[3.2.2]NONANE | 68 mg, 34% | S1C(=NC2=C1C=CC=C2)N2CCN1CCC2CC1 | C14H17N3S
